US09062048B2
Step C: methyl N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)carbamate
Into a 50 mL round-bottom flask was placed a solution of 1-1,4-dioxaspiro[4.5]decan-8-ylpropan-1-amine hydrochloride (as prepared in the previous step, 50 mg, 0.21 mmol, 1.00 equiv) in dichloromethane (10 mL) and TEA (42.8 mg, 0.42 mmol, 2.00 equiv). This was followed by the addition of methyl carbonochloridate (23.9 mg, 0.25 mmol, 1.20 equiv) dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 20 mL of water. The resulting solution was extracted with 2×20 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to give the title compound as a yellow oil.

reactant | 1-1,4-dioxaspiro[4.5]decan-8-ylpropan-1-amine hydrochloride | Cl.O1CCOC12CCC(CC2)C(CC)N
reactant | methyl carbonochloridate | 0.25 mmol, 23.9 mg, 1.20 equiv | C(OC)(=O)Cl | C2H3ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl N-(1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)carbamate | O1CCOC12CCC(CC2)C(CC)NC(OC)=O | C13H23NO4
